US20010044538A1
To a solution of trifluoromethanesulfonic acid 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)vinyl ester (1.5 g, 3.20 mmol) in ethyl acetate (50 ml) was added stannous chloride dihydrate (2.89 g, 12.8 mmol) and the reaction mixture was warmed to 50° C. After 1 h, the warm solution was treated with saturated sodium bicarbonate solution (10 ml) and filtered through Celite. The filtrate was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (CH2Cl2-95% CH2Cl2/MeOH gradient) gave 3-(4-fluorophenyl)-1-hydroxy-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine as a tan solid (700 mg).

reactant | trifluoromethanesulfonic acid 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)vinyl ester | 3.20 mmol, 1.5 g | FC1=CC=C(C=C1)C(=C(C1=CC=NC=C1)OS(=O)(=O)C(F)(F)F)C1=NC=CC=C1[N+](=O)[O-] | C19H11F4N3O5S
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-fluorophenyl)-1-hydroxy-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 700 mg | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)O)C2=CC=NC=C2 | C18H12FN3O
